US06939885B2
Synthesis of 4-tert-Butyl-N-[4-chloro-2-(6-morpholin-4-yl-pyridine-3-carbonyl)-phenyl]-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 158 mg of (2-Amino-5-chloro-phenyl)-(6-morpholin-4-yl-pyridin-3-yl)-methanone and 116 mg of 4-tert-butyl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 1.22 (s, 3H), 3.76 (t, 4H, J=4.6 Hz), 3.857 (t, 4H, J=4.6H), 8.78 (d, 1H, J=9.2 Hz), 7.30 (m, 2H), 7.34 (m, 1H), 7.46 (m, 1H), 7.54-7.56 (m, 3H), 7.99 (d, 1H, J=9.2 Hz), 8.16 (v, 1H), 9.29 (s, 1H). MS: m/z 515.1 (M++1).

reactant | (2-Amino-5-chloro-phenyl)-(6-morpholin-4-yl-pyridin-3-yl)-methanone | 158 mg | NC1=C(C=C(C=C1)Cl)C(=O)C=1C=NC(=CC1)N1CCOCC1 | C16H16ClN3O2
reactant | 4-tert-butyl-benzenesulfonyl chloride | 116 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 4-tert-Butyl-N-[4-chloro-2-(6-morpholin-4-yl-pyridine-3-carbonyl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C=1C=NC(=CC1)N1CCOCC1 | C26H28ClN3O4S
